US05241064
To a solution of methyl 2-(1-hydroxyethyl)acrylate (50 g) and pyridine (32.6 ml) in dichloromethane (200 ml) was added dropwise acetyl chloride (34.8 g) at 0° C. After the reaction mixture was stirred for 1 hour, the mixture was allowed to warm to room temperature, and quenched with water (500 ml). The aqueous layer was separated and extracted twice with dichloromethane. The combined organic layer were washed with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate and an aqueous sodium chloride in turn, and then dried over magnesium sulfate. The resultant solution was evaporated, and the residue was distilled in vacuo to give methyl 2-(1-acetoxyethyl)acrylate (28.2 g).

reactant | methyl 2-(1-hydroxyethyl)acrylate | 50 g | OC(C)C(C(=O)OC)=C | C6H10O3
reactant | pyridine | 32.6 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 34.8 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 2-(1-acetoxyethyl)acrylate | 28.2 g | C(C)(=O)OC(C)C(C(=O)OC)=C | C8H12O4
